data/mechanism_extracts/Chemistry/10.1002_chem.202005368.json
{"doi": "10.1002_chem.202005368", "journal": "Chemistry", "is_review": false, "rxn_class_summary": "Electrochemical tri-/difluoromethylation-triggered radical cyclization of N-substituted 2-aryl indole acrylamides coupled with oxidative cleavage of the indole C(2)=C(3) bond to deliver fluoroalkylated 2-(2-acetylphenyl)isoquinoline-1,3-diones.", "mechanism_family": ["radical_anodic", "paired_electrolysis", "mediator_anodic"], "electrochemical_role": "Anodic oxidation of CF3SO2Na (or Mn(II)/CF2HSO2Na for CF2H) generates the fluoroalkyl radical that adds to the acrylamide alkene; subsequent anodic oxidations advance the cyclized intermediate to a radical cation and then to an iminium, while the cathode reduces water/H+ to H2 generating hydroxide that delivers the two new C=O oxygens.", "key_intermediates": [{"name": "CF3 radical from anodic oxidation of CF3SO2- (loss of SO2)", "smiles": "[CH0](F)(F)F", "role": "reactive"}, {"name": "Carbon radical A from CF3 addition to acrylamide alkene", "smiles": null, "role": "transient"}, {"name": "Cyclohexadienyl-type radical B after radical cyclization onto indole C2", "smiles": null, "role": "transient"}, {"name": "Trifluoromethylated indolo[2,1-a]isoquinoline 6 (cyclization product)", "smiles": null, "role": "reactive"}, {"name": "Radical cation D from anodic oxidation of 6", "smiles": null, "role": "transient"}, {"name": "C3-hydroxylated intermediate E (iminium after OH addition)", "smiles": null, "role": "transient"}, {"name": "trans-2,3-dihydroxy intermediate F after second OH addition at C2", "smiles": null, "role": "transient"}, {"name": "Alkoxide/diol G prior to C-C cleavage", "smiles": null, "role": "transient"}, {"name": "Ring-opened intermediate H after C2-C3 bond cleavage", "smiles": null, "role": "transient"}, {"name": "MnIII-CF2H species (for CF2H variant)", "smiles": null, "role": "reactive"}], "electron_flow": "Anode oxidizes CF3SO2- (or Mn(II) for CF2H) to generate a fluoroalkyl radical that adds to the acrylamide alkene and cyclizes onto the indole; a second anodic oxidation/deprotonation gives the closed indoloisoquinoline 6, which is further oxidized at the anode to a radical cation, then sequentially attacked by cathodically generated hydroxide at C3 and C2 to give a trans-diol; deprotonation and C2–C3 bond cleavage afford the diketone product while protons are reduced to H2 at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Reaction completely quenched; TEMPO–CF3 and TEMPO–CF2H adducts detected, supporting fluoroalkyl radical intermediates."}, {"name": "Isolated cyclization intermediate 6", "smiles": null, "purpose": "intermediate_trap", "observation": "6 isolated in 65% after 2 h electrolysis and converted to product 3a in 93% under standard conditions, establishing 6 as a key on-cycle intermediate."}, {"name": "N-Boc 2-aryl indole 1r (no acrylamide tether)", "smiles": null, "purpose": "intermediate_trap", "observation": "Without Langlois reagent gave indole oxidative cleavage product 7 in 71%, showing the oxidative cleavage step is independent of fluoroalkylation."}, {"name": "H2O-18 isotope labeling", "smiles": "[18OH2]", "purpose": "isotope_label", "observation": "Doubly 18O-labeled product 3f detected by HRMS, confirming both new carbonyl oxygens originate from water."}, {"name": "N2 atmosphere control", "smiles": null, "purpose": "other", "observation": "Reaction under N2 still gave 3a in 76%, ruling out O2 as the oxygen source."}, {"name": "Anhydrous conditions", "smiles": null, "purpose": "other", "observation": "Only trace product formed without water (Table 1 entry 11), consistent with H2O as O source."}, {"name": "Cyclic voltammetry of 1a, 2a, 2b", "smiles": null, "purpose": "redox_probe", "observation": "Eox(CF3SO2Na)=1.1 V and Eox(CF2HSO2Na)=0.8 V vs Ag/AgCl, both well below Eox(1a)=1.58 V, so fluoroalkyl precursors are oxidized first."}], "evidence_types_used": ["intermediate_trap_TEMPO", "isolation_of_intermediate", "stoichiometric_intermediate", "H/D_labeling", "product_isotope_distribution", "cyclic_voltammetry"], "evidence_strength": "strong", "notes": "For the CF2H variant a MnCl2·4H2O co-catalyst is required: anodic oxidation of Mn(II) to a Mn(III)-CF2H species delivers the CF2H radical, while the CF3 pathway is metal-free. Authors explicitly establish the sequence as fluoroalkylation → cyclization → indole C(2)=C(3) oxidative cleavage (not the reverse order)."}
